US04670557
A 300-ml stirred autoclave with pyrex liner was charged with a mixture of t-butylamine (14.6 g, 0.2 mol), propylene oxide (34.8 g, 0.6 mol), tributylphosphine (1.6 ml), ruthenium(III) trichloride hydrate (0.520 g) and 1,4-dioxane (20 ml). The reactor was sealed and purged of air. The reaction was heated to 180° C. and held for five hours. During the process, the pressure went up to 250 psi. The reaction was allowed to cool to room temperature. The solvent was removed at reduced pressure. The products were distilled to obtain a 52% yield of 4-tert-butyl-2,6-dimethyl-2-hydroxymorpholine and a 12% yield of N-tert-butyl-bis-(2-hydroxypropyl)amine. There is only a small amount of 4-tert-butyl-2,6-dimethylmorpholine (<1%) found in this reaction.

reactant | t-butylamine | 0.2 mol, 14.6 g | C(C)(C)(C)N | C4H11N
reactant | propylene oxide | 0.6 mol, 34.8 g | C1C(C)O1 | C3H6O
reactant | tributylphosphine | 1.6 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | ruthenium(III) trichloride hydrate | 0.520 g | O.[Ru](Cl)(Cl)Cl
product | 4-tert-butyl-2,6-dimethyl-2-hydroxymorpholine | 52% yield | C(C)(C)(C)N1CC(OC(C1)C)(O)C | C10H21NO2
